US08084469B2
Ethyl 5-(4-ethylphenyl)pyridine-3-carboxylate
According to General Method 1A, 29 g (126 mmol) of ethyl 5-bromonicotinate and 23 g (152 mmol, 1.2 eq.) of 4-ethylphenylboronic acid were reacted. Yield: 32 g (82% of theory)

reactant | ethyl 5-bromonicotinate | 126 mmol, 29 g | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | 4-ethylphenylboronic acid | 152 mmol, 23 g, 1.2 eq. | C(C)C1=CC=C(C=C1)B(O)O | C8H11BO2
product | Ethyl 5-(4-ethylphenyl)pyridine-3-carboxylate | C(C)C1=CC=C(C=C1)C=1C=C(C=NC1)C(=O)OCC | C16H17NO2
